US04935432
To a mixture of 1-[2-{5-(4-hydroxy-3-methoxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine (0.89 g), dry N-methylmorpholine (1.0 g) and dry N,N-dimethylformamide (10 ml) was added slowly acetyl chloride (0.26 g) at 5° to 10° C. After stirring for 1 hours, the reaction mixture was poured into water (50 ml) and stirred for 1 hour. The resulting precipitate was collected, washed with water and then recrystallized from a mixture of ethanol and water (7:3 V/V) to give 1-[2-{5-(4-acetoxy-3-methoxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine (0.22 g).

reactant | 1-[2-{5-(4-hydroxy-3-methoxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine | 0.89 g | OC1=C(C=C(C=C1)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12)OC | C27H31N3O3
reactant | N-methylmorpholine | 1.0 g | CN1CCOCC1 | C5H11NO
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | acetyl chloride | 0.26 g | C(C)(=O)Cl | C2H3ClO
solvent | water | 50 ml | O | H2O
product | 1-[2-{5-(4-acetoxy-3-methoxyphenyl)-(2E,4E)-2,4-pentadienoylamino}ethyl]-4-(3-indolyl)piperidine | 0.22 g | C(C)(=O)OC1=C(C=C(C=C1)/C=C/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12)OC | C29H33N3O4
